Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dizziness, Nausea, Herpes Zoster 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with past medical history of HTN, HLD with recent diagnosis 
of shingles on ___, status post treatment with valacyclovir, 
who is presenting to the ED for ineffective pain control. She 
was initially prescribed gabapentin on ___, which reportedly 
caused pain/burning. This prompted prescription of tramadol by 
PCP ___ ___. Per the patient, she has been taking the 
tramadol, but it has been causing nausea/drowsiness and 
ineffective at treating her pain.
 
Past Medical History:
 HTN  
 HLD
 Cervical degeneration 
 Macular degeneration OS  
 S/p cataract surgery OD  
 L parotid adenoma 
 
Social History:
___
Family History:
No diseases that run through the family. Husband has not had 
shingles or been vaccinated
 
Physical Exam:
ON ADMISSION:
 Vital Signs: 97.3 146/67 (R) 155/60 (L) 77 20 96RA  
 General: Alert, oriented, in mild distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, ___ systolic 
crescendo-decrescendo murmur loudest at RUSB radiating to 
carodits  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.  
 Skin: Scattered erythematous maculopapular rash over R 
trapezius muscle and R shoulder. Several areas crusted over. No 
vesicules, pustules, or underlying erythema/warmth  
 Musculoskeletal: Did not perform Spurling test due to patient 
discomfort. No pain, erythema/warmth upon palpation of shoulder 
joint. No pain with passive/active motion of shoulder.  

ON DISCHARGE:
 Vital Signs: 98.1 139/59 55 18 95% RA 
 General: Asleep in bed; on awakening, alert, awake, interactive
 CV: Regular rate and rhythm, normal S1 + S2, ___ systolic 
crescendo-decrescendo murmur loudest at RUSB radiating to 
carodids  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
 Neuro: CNII-XII intact, 4+/5 RUE strength in shoulder 
abduction, elbow flexion, and finger squeeze 
 Skin: Scattered erythematous maculopapular hyperpigmented rash 
over R trapezius muscle and R shoulder in C6-7 dermatome. 
Several areas crusted over. No vesicules, pustules, or 
underlying erythema/warmth. No pain elicited on touch to rash 
except for one ~3-4cm square area with 0.5cm crusting medial to 
upper R scapula. Pain constant in this area, occasionally shoot 
further distal on RUE
 MSK: negative Spurling test
 
Pertinent Results:
ON ADMISSION:
___ 06:44PM BLOOD WBC-6.6 RBC-4.86 Hgb-14.3 Hct-43.8 MCV-90 
MCH-29.4 MCHC-32.6 RDW-13.7 RDWSD-45.2 Plt ___
___ 06:44PM BLOOD Neuts-69.8 Lymphs-17.9* Monos-10.5 
Eos-1.2 Baso-0.3 Im ___ AbsNeut-4.63 AbsLymp-1.19* 
AbsMono-0.70 AbsEos-0.08 AbsBaso-0.02
___ 06:44PM BLOOD Glucose-77 UreaN-14 Creat-0.7 Na-140 
K-3.5 Cl-102 HCO3-24 AnGap-18
___ 06:44PM BLOOD cTropnT-<0.01
___ 06:44PM BLOOD Calcium-9.9 Phos-2.4* Mg-2.2

ECG
___ Globally depressed T-waves with visible U waves on 
precordial leads

ON DISCHARGE:
___ 06:42AM BLOOD WBC-4.4 RBC-4.18 Hgb-12.3 Hct-39.3 MCV-94 
MCH-29.4 MCHC-31.3* RDW-13.9 RDWSD-47.5* Plt ___
___ 06:42AM BLOOD Glucose-95 UreaN-13 Creat-0.6 Na-144 
K-4.0 Cl-109* HCO3-25 AnGap-14
___ 06:42AM BLOOD Calcium-9.1 Phos-3.9 Mg-2.2
 
Brief Hospital Course:
HOSPITAL COURSE IN BRIEF
___ with HTN, HLD and recent zoster infection s/p 7d 
valacyclovir, who presents with intractable right arm/back pain. 
She was given IV morphine to good effect. On transition to PO 
medicines, pregabalin was not effective and she refused 
oxycodone due to nausea with past administrations. As her pain 
was mainly localize to a very small area, she was trialed on 
lidocaine patch to some effect. She was discharged on a regimen 
of gabapentin at higher doses than she had trialed earlier.

On admission, she also had abnormally low potassium, with a 
level of 3.5 in a hemolyzed sample. She was repleted back to 
normal range prior to discharge.

DETAILED HOSPITAL COURSE BY PROBLEM
#Herpes zoster acute neuritis: patient given morphine IV 2mg in 
ED on arrival ___ ___ to good effect. During ___ AM, received 
additional 3mg in 2 doses and remained comfortable. Also 
received Zofran 4mg IV x2 for opioid-induced nausea. On ___ ___, 
patient was trialed on pregabalin 75mg PO bid, but complained 
that this made her dizzy and somewhat nauseous. A lidocaine 5% 
patch was applied over her most painful areas, with some 
improvement. Patient was then trialed on gabapentin 200mg tid 
with some improvement, and discharged home on the above dose of 
gabapentin, lidocaine patch, and Tylenol.

#Hypokalemia: on admission, patient's K was 3.5 on a moderately 
hemolyzed sample. ECG showed diffuse T wave depression and U 
waves. Patient was repleted with PO potassium to 4.4 on ___. 
Repeat ECG still showed U waves, with slightly more prominent T 
waves. A past ECG from ___ taken when patient had normal K 
was also found to have U waves, so most likely non-pathologic U 
waves.

#HTN, HLD: continued on home regimen.

TRANSITIONAL ISSUES:
-Patient discharged on gabapentin 200 mg TID and lidocaine patch 
for pain control
-Patient's tramadol was stopped as she reported that this was 
poorly tolerated
-Please follow up to ensure that the patient's pain has improved 
or is well-managed
-The patient's potassium was abnormally low on admission. Please 
follow-up to ensure that her levels have stayed in normal range 
after repletion during this hospitalization
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Oxybutynin 5 mg PO DAILY:PRN bladder spasm 
2. Metoprolol Tartrate 75 mg PO BID 
3. amLODIPine 10 mg PO DAILY 
4. Simvastatin 20 mg PO QPM 
5. TraMADol 50 mg PO Q8H:PRN Pain - Moderate 
6. Naproxen 220 mg PO Q12H:PRN Pain - Mild 
7. Calcium Carbonate 1250 mg PO DAILY 
8. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H  
2.  Gabapentin 200 mg PO TID  
3.  Lidocaine 5% Patch 1 PTCH TD QAM 
Please apply to area where pain is worst and most constant  
4.  amLODIPine 10 mg PO DAILY  
5.  Calcium Carbonate 1250 mg PO DAILY  
6.  Metoprolol Tartrate 75 mg PO BID  
7.  Naproxen 220 mg PO Q12H:PRN Pain - Mild  
8.  Oxybutynin 5 mg PO DAILY:PRN bladder spasm  
9.  Simvastatin 20 mg PO QPM  
10.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: herpes zoster acute neuritis, cervical radiculopathy
SECONDARY: hypertension, hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___. As you know, you were admitted because you could 
not control the pain in your right upper back, shoulder, and arm 
at home. During this hospitalization, you were given intravenous 
pain medication initially to control your pain. You were 
switched the next day to oral medicines. You also received a 
skin patch that directly provided pain relief to your back. 
Combined with the oral medicines, this gave you sufficient 
relief to discharge you home.

You also had a low potassium level when you were admitted. You 
were given oral potassium supplements, and monitored throughout 
this stay until your potassium levels became normal.

Please take your medications as prescribed. Please also follow 
up with Dr. ___ week as described below.

With best wishes for your health,
Your ___ care team
 
Followup Instructions:
___